US06365597B1
17β-cyclopropylamino-4-aza-androst-5(6)-en-3-one
4-Aza-androst-5(6)-ene-3,17-dione (0.53 g, 1.844 mmol) dissolved in chloroform (CHCl3, 10.0 mL) and cyclopropylamine ((CH2)2CHNH2, ALDRICH, 4.12 g, 72.15 mmol) is added, and the reaction mixture is heated to reflux under nitrogen. After 15 hours, the reaction is cooled to room temperature and analysis indicates the stoichiometric conversion to the cyclopropylimine. Sodium borohydride (NaBH4, ALPHA, 0.3574 g, 0.4475 mmol) in ethanol (21 mL) is added and the reaction is stirred at room temperature under nitrogen. After 21 hours, the reaction is worked-up by diluting with EtOAc (50 mL), washing in water (2×40 mL), in brine (40 mL) and drying over MgSO4, filtering and evaporating the solvent to obtain the crude product of the title compound. The crude product is further purified by flash chromatography (10.5″, 5.25 g, SiO2; elute first with 25% EtOAc/×25% CH2Cl2/50% hexane then with 15% iPrOH/×85%×CH2Cl2) to give 17β-cyclopropylamino-4-aza-androst-5(6)-en-3-one in excellent purity (0.4948 g, 1.5063 mmol). Yield: 82%.

reactant | 4-Aza-androst-5(6)-ene-3,17-dione | 1.844 mmol, 0.53 g | C[C@@]12C(CC[C@H]1[C@@H]1CC=C3NC(CC[C@]3(C)[C@H]1CC2)=O)=O | C18H25NO2
reactant | cyclopropylamine | 72.15 mmol, 4.12 g | C1(CC1)N | C3H7N
reactant | Sodium borohydride | 0.4475 mmol, 0.3574 g | [BH4-].[Na+]
solvent | chloroform | 10.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 21 mL | C(C)O | C2H6O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 17β-cyclopropylamino-4-aza-androst-5(6)-en-3-one | C1(CC1)N[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3NC(CC[C@]3(C)[C@H]1CC2)=O | C21H32N2O
